US09126931B2
8-Hydroxy-10,10-dimethyl-10H-11-oxa-2-aza-benzo[b]fluoren-5-one
DCM (0.34 ml) solution of 8-methoxy-10,10-dimethyl-10H-11-oxa-2-aza-benzo[b]fluoren-5-one (Compound GT15-11, 10 mg) was cooled to −78° C., added with the DCM solution (0.17 ml) of 1.0 M BBr3, and the mixture was stirred at room temperature overnight. To the reaction mixture, water and saturated aqueous solution of sodium bicarbonate were added, and the solid produced therefrom was filtered off. The filtrate was extracted with the mixture solution of DCM and MeOH (DCM:MeOH=9:1). The organic layer was washed with saturated brine. The filtered solid and the residues obtained after concentration under reduced pressure were combined to obtain the title compound (9.5 mg, 99%).

reactant | DCM | 0.34 ml | C(Cl)Cl | CH2Cl2
reactant | 8-methoxy-10,10-dimethyl-10H-11-oxa-2-aza-benzo[b]fluoren-5-one | 10 mg | COC=1C=CC2=C(C(C=3OC=4C=NC=CC4C3C2=O)(C)C)C1 | C18H15NO3
reactant | DCM | 0.17 ml | C(Cl)Cl | CH2Cl2
reactant | BBr3 | 1.0 M | B(Br)(Br)Br | BBr3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 8-Hydroxy-10,10-dimethyl-10H-11-oxa-2-aza-benzo[b]fluoren-5-one | 9.5 mg, 99% | OC=1C=CC2=C(C(C=3OC=4C=NC=CC4C3C2=O)(C)C)C1 | C17H13NO3
